US05606037
Step 2: 1-methoxy-5,10-dioxo-5,10-dihydro-1H-naphtho [2,3-c] thiine-3-carboxylic acid
Methyl 1-methoxy-5,10-dioxo-5,10-dihydro-1H-naphtho [2,3-c] thiine-3-carboxylate (106 mg, 0.33 mmol) was dissolved in THF (2 ml). 1.75M solution of sodium hydroxide (0.32 mg, 0.55 mmol) was added dropwise at 0° C. followed by water (0.5 ml). The reaction mixture was stirred at 0° C. for 3 hours, then water (10 ml) was added, and the reaction mixture was acidified to pH=3 with 5% hydrochloric acid. After that, the reaction mixture was extracted with dichloromethane (5×5 ml). Organic fractions were evaporated to dryness. The residue 98 mg (crude) was used in the next step.

reactant | Methyl 1-methoxy-5,10-dioxo-5,10-dihydro-1H-naphtho [2,3-c] thiine-3-carboxylate | 0.33 mmol, 106 mg | COC1SC(=CC2=C1C(C1=CC=CC=C1C2=O)=O)C(=O)OC | C16H12O5S
reactant | sodium hydroxide | 0.55 mmol, 0.32 mg | [OH-].[Na+]
reactant | water | 0.5 ml | O | H2O
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-methoxy-5,10-dioxo-5,10-dihydro-1H-naphtho [2,3-c] thiine-3-carboxylic acid | COC1SC(=CC2=C1C(C1=CC=CC=C1C2=O)=O)C(=O)O | C15H10O5S
